US07468375B2
Step 1: Methyl 1H-pyrazolo[3,4-c]pyridine-5-carboxylate.
To a stirring solution of methyl 4-methyl-5-nitro-pyridine-2-carboxylate (3.00 g) in THF (40 mL) was added Pd/C catalyst (300 mg). The flask was evacuated and back-filled with hydrogen from a balloon three times and then stirred under hydrogen overnight. The mixture was filtered through Celite, and the filter cake was extracted several times with ethyl acetate. The combined organic extracts were concentrated and the resulting white powder (2.58 g, 100%) consisting of methyl 5-amino-4-methyl-pyridine-2-carboxylate was used in the next step without further purification and characterization. To a stirring solution of methyl 5-amino-4-methyl-pyridine-2-carboxylate (2.58 g, 15.53 mmol) in AcOH (60 mL), was added 2.0 M sodium nitrite in water (9.3 mL, 18.63 mmol) and the mixture was stirred for 4 h at room temperature. The acetic acid and other volatiles were removed at high vacuum, the resulting solid was suspended in water and filtered to give the title compound as a yellowish solid (2.18 g, 79% yield). 1HNMR (DMSO-d6): δ ppm 13.98 (bs, 1H), 9.10 (s, 1H), 8.57 (s, 1H), 8.39 (s, 1H), 3.88 (s, 3H). LCMS (API-ES M+Na+) 200.

reactant | methyl 4-methyl-5-nitro-pyridine-2-carboxylate | 3.00 g | CC1=CC(=NC=C1[N+](=O)[O-])C(=O)OC | C8H8N2O4
reactant | methyl 5-amino-4-methyl-pyridine-2-carboxylate | 15.53 mmol, 2.58 g | NC=1C(=CC(=NC1)C(=O)OC)C | C8H10N2O2
reactant | sodium nitrite | 2.0 M | N(=O)[O-].[Na+]
reactant | water | 18.63 mmol, 9.3 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 300 mg | [Pd] | Pd
solvent | AcOH | 60 mL | CC(=O)O | C2H4O2
product | Methyl 1H-pyrazolo[3,4-c]pyridine-5-carboxylate | 2.18 g, 79% yield | N1N=CC=2C1=CN=C(C2)C(=O)OC | C8H7N3O2
